US04367234
5-(2-Methyl-1-naphthyl)oxazolidine-2,4-dione
Following the procedure of Example 138, ethyl 1-hydroxy-1-(2-methyl-1-naphthyl)methanecarboximidate hydrochloride (0.47 g., 1.9 mmoles) in 30 ml. of tetrahydrofuran was converted to toluene recrystallized 5-(2-methyl-1-naphthyl)oxazolidine-2,4-dione (185 mg., m.p. 145°-147° C., m/e 241). Recrystallization from hexane-ether gave an analytical sample (m.p. 147°-150° C.).

reactant | ethyl 1-hydroxy-1-(2-methyl-1-naphthyl)methanecarboximidate hydrochloride | 1.9 mmoles, 0.47 g | Cl.OC(C(OCC)=N)C1=C(C=CC2=CC=CC=C12)C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Methyl-1-naphthyl)oxazolidine-2,4-dione | CC1=C(C2=CC=CC=C2C=C1)C1C(NC(O1)=O)=O | C14H11NO3
